US07414052B2
To a solution of (2S,3S)-3-(2,3-dihydro-1H-indol-1-yl)-3-(3-fluorophenyl)propane-1,2-diol (452 mg, 1.586 mmol) in dichloromethane (3 mL) under nitrogen was added triethylamine (1.1 mL, 7.93 mmol). The mixture was cooled to 0° C., and para-toluenesulfonyl chloride (423 mg, 2.22 mmol) was added portionwise. The reaction mixture was stirred at 0° C. for 1 hour and stored at 0° C. overnight. Methylamine in absolute ethanol (8 M, 5 mL, 40 mmol) was added and the reaction mixture was sealed, and stirred overnight while warming to room temperature. All volatiles were removed under reduced pressure. The oil residue was dissolved in dichloromethane (20 mL), washed with aqueous potassium carbonate (5 mL), dried (anhydrous sodium sulfate), and concentrated. Purification by Biotage chromatography (FlasH12i, silica, 0-15% MeOH/dichloromethane/0.5% triethylamine) gave (1S,2R)-1-(3-fluorophenyl)-1-(1H-indol-1-yl)-3-(methylamino)propan-2-ol, which was dissolved dichloromethane (5 mL) and treated with a 1M ethereal solution of hydrochloric acid (1.9 mL, 1.9 mmol). To the resulting solution was added hexane until white powder formed, which was collected, washed with hexane, and dried in vacuo to yield 209 mg (44%) of (1S,2R)-1-(3-fluorophenyl)-1-(1H-indol-1-yl)-3-(methylamino)propan-2-ol hydrochloride as a white powder. MS (ES) m/z 299.0 ([M+H]+); HRMS: calcd for C18H19FN2O+H+, 299.1554; found (ESI, [M+H]+), 299.1553.

reactant | (2S,3S)-3-(2,3-dihydro-1H-indol-1-yl)-3-(3-fluorophenyl)propane-1,2-diol | 1.586 mmol, 452 mg | N1(CCC2=CC=CC=C12)[C@H]([C@@H](CO)O)C1=CC(=CC=C1)F | C17H18FNO2
reactant | triethylamine | 7.93 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | para-toluenesulfonyl chloride | 2.22 mmol, 423 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Methylamine | CN | CH5N
reactant | ethanol | 40 mmol, 8 M, 5 mL | C(C)O | C2H6O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (1S,2R)-1-(3-fluorophenyl)-1-(1H-indol-1-yl)-3-(methylamino)propan-2-ol | FC=1C=C(C=CC1)[C@@H]([C@@H](CNC)O)N1C=CC2=CC=CC=C12 | C18H19FN2O
